US07700655B2
(3) 5-Chloro-2-hydroxy-N-{4-[5-phenyl-3-(trifluoromethyl)pyrazol-1-yl]phenyl}-benzamide (Compound No. 548)
Using 5-chlorosalicylic acid and 1-(4-aminophenyl)-5-phenyl-3-(trifluoromethyl)pyrazole as the raw materials, the same operation as the Example 16 gave the title compound.

reactant | 5-chlorosalicylic acid | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | 1-(4-aminophenyl)-5-phenyl-3-(trifluoromethyl)pyrazole | NC1=CC=C(C=C1)N1N=C(C=C1C1=CC=CC=C1)C(F)(F)F | C16H12F3N3
product | 5-Chloro-2-hydroxy-N-{4-[5-phenyl-3-(trifluoromethyl)pyrazol-1-yl]phenyl}-benzamide | Yield: 73.2% | ClC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)N2N=C(C=C2C2=CC=CC=C2)C(F)(F)F)C1)O | C23H15ClF3N3O2
